US09211281B2
Preparation of 2,2,3,3,4,4,4-Heptafluoro-N-methylbutanehydrazide
Methylhydrazine (4.5 mL, 85 mmol) in CH2Cl2 (57 mL) was cooled—at 0° C. To this was added a 0.15 M—solution of 2,2,3,3,4,4,4-heptafluorobutanoic anhydride (35 g, 8.5 mmol) in CH2Cl2 over 2 h via a syringe pump. After the addition was complete, the reaction was slowly warmed to ambient temperature. After 18 h the mixture was washed a—saturated solution of Na2CO3. (225 mL). The organic layer was dried with Na2SO4 and concentrated in vacuo to afford the title compound as yellow oil (840 mg, 36%): 1H NMR (400 MHz, CDCl3) δ 3.93 (s, 2H), 3.29 (t, J=0.9 Hz, 3H); 19F NMR (376 MHz, CDCl3) major rotomer δ −80.58 (t, J=9.8 Hz), −112.70-−112.94 (m), −123.59-−123.70 (m); EIMS m/z 242 ([M]+).

reactant | Methylhydrazine | 85 mmol, 4.5 mL | CNN | CH6N2
reactant | 2,2,3,3,4,4,4-heptafluorobutanoic anhydride | 8.5 mmol, 35 g | FC(C(=O)OC(C(C(C(F)(F)F)(F)F)(F)F)=O)(C(C(F)(F)F)(F)F)F | C8F14O3
solvent | CH2Cl2 | 57 mL | C(Cl)Cl | CH2Cl2
product | 2,2,3,3,4,4,4-Heptafluoro-N-methylbutanehydrazide | 840 mg, 36% | FC(C(=O)N(N)C)(C(C(F)(F)F)(F)F)F | C5H5F7N2O
